US06878715B1
Isobutylchloroformate (341 mg, 2.5 mmol) was added slowly to a solution of acetic acid (146 mg, 2.5 mmol) and triethylamine (252.75 mg, 2.5 mmol) in dichloromethane (20 ml) at −15° C. After warming to room temperature over 15 minutes, a solution of (R)-1-(5-aminohexyl)-3,7-dimethylxanthine (prepared as described for CT11558) (558 mg, 2 mmol) in dichloromethane (10 ml) was added. After stirring al room temperature for 12 hours, the mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 13% methanol-ethyl acetate to provide (R)-1-(5-acetamidohexyl)-3,7-dimethylxanthine (CT12538) (380 mg).

reactant | Isobutylchloroformate | 2.5 mmol, 341 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | acetic acid | 2.5 mmol, 146 mg | C(C)(=O)O | C2H4O2
reactant | triethylamine | 2.5 mmol, 252.75 mg | C(C)N(CC)CC | C6H15N
reactant | (R)-1-(5-aminohexyl)-3,7-dimethylxanthine | 2 mmol, 558 mg | N[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C13H21N5O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-1-(5-acetamidohexyl)-3,7-dimethylxanthine | 380 mg | C(C)(=O)N[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C15H23N5O3
